data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
677,737,[CH3:17][c-:18]1[o+:19][n:20][o:21][c:22]1=[O:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[N:20]1[O:19][C:18]3([CH3:17])[C:22](=[O:23])[O:21]1,water,298.15,14.120379870667987,-33.54933077072468
347,377,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]2([CH3:17])[CH3:18],water,298.15,23.026434560391955,-17.26881696211209
3992,4567,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[NH-:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[NH:21][N:19]([CH3:20])[C:12]2([CH3:11])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,34.620456310222046,-4.281119299036488
905,978,[CH2:1]=[C:2]([C:3](=[O:4])[O:5][CH3:6])[C:7](=[O:8])[O:9][CH3:10].[CH3:11][C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[C-:21]([CH3:22])[CH3:23]>>[CH2:1]1[C:2]([C:3](=[O:4])[O:5][CH3:6])([C:7](=[O:8])[O:9][CH3:10])[C:12]([CH3:11])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:19]([CH3:20])[C:21]1([CH3:22])[CH3:23],water,298.15,7.398962466647485,-34.88254425155717
1108,1206,[CH3:15][C-:16]([C:17]#[N:18])[NH+:19]=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:19][C:16]3([CH3:15])[C:17]#[N:18],water,298.15,12.478109716549683,-41.517689770624415
4823,5505,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][c:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:18]2([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[O:17][C:15](=[O:16])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[N:25]2[CH3:26],water,298.15,33.76865698613687,8.28861022964544
591,648,[CH3:11][C:12](=[NH+:13][C-:14]([C:15]#[N:16])[C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:14]([C:15]#[N:16])([C:17]#[N:18])[NH:13][C:12]1([CH3:11])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,23.61161070083812,-23.92423596528488
2144,2378,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2.[N:17]#[C:18][N-:19][NH+:20]=[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH:13]=[CH:14][CH:15]1[O:16]3)[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[NH:20][N:19]2[C:18]#[N:17],water,298.15,27.65416288117415,2.189990367879612
1472,1625,[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26].[CH:1]#[C:2][C:3](=[O:4])[O:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[O:5][CH3:6])[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[O:25][CH3:26])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[O:14][CH3:15],water,298.15,19.61219125555175,-57.10228074454538
3812,4364,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][N-:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:17]([C:18]([CH3:19])=[O:20])[N:16]=[C:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,14.146580088258784,-42.15242977096661
26,29,[CH3:6][O:7][C:8](=[O:9])[N-:10][O+:11]=[C:12]([CH3:13])[CH3:14].[CH:1]#[C:2][C:3]([CH3:4])=[O:5]>>[CH:1]1=[C:2]([C:3]([CH3:4])=[O:5])[N:10]([C:8]([O:7][CH3:6])=[O:9])[O:11][C:12]1([CH3:13])[CH3:14],water,298.15,20.107811511183016,-44.30852633639049
4968,5655,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14](=[O:15])[O:16][CH3:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14](=[O:15])[O:16][CH3:17])[N:18]([CH3:19])[C:20]1([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,45.0713914827295,-8.620425070273619
